US06331344B1
PPT was produced by ester exchange reaction and polycondensation reaction of dimethyl terephthalate and 1,3-propanediol. Then, an aqueous slurry of aluminum silicate particles was prepared, which particles were synthesized by reacting sodium silicate and sodium aluminate in an aqueous system by a wet method and had an aluminum ratio of 20% by weight in terms of aluminum oxide. This aqueous slurry was mixed with and kneaded in PPT pellets.

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium aluminate | O=[Al-]=O.[Na+]
reactant | aluminum | [Al] | Al
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
product | aluminum silicate | [Si]([O-])([O-])([O-])[O-].[Al+3].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Al+3].[Al+3].[Al+3] | InChI=1S/4Al.3O4Si/c;;;;3*1-5(2,3)4/q4*+3;3*-4
